US04608374
11-{1-[2-(1,3-Dihydro-2-oxo-2H-benzimidazol-1-yl)ethyl]piperidin-4-yl}-5H,11H-pyrrolo[2,1-c][1,4]benzoxazepine oxalate
To 50 ml DMF, were added 11-(piperidin-4-yl)-5H,11H-pyrrolo[2,1-c][1,4]benzoxazepine (4.0 g, 0.015 mole), 1-(2-chloroethyl)-1,3-dihydro-2H-benzimidazol-2-one (3.9 g, 0.02 mole), milled K2CO3 (20 g, 0.15 mole) and KI (0.01 g). After stirring at 80° C. for three hours, the mixture was cooled, filtered and evaporated to an oil, which was stirred with water and extracted with ethyl acetate. The ethyl acetate layer was washed twice with water and dried (saturated NaCl, anhydrous MgSO4).

reactant | 11-(piperidin-4-yl)-5H,11H-pyrrolo[2,1-c][1,4]benzoxazepine | 0.015 mole, 4.0 g | N1CCC(CC1)C1OC2=C(CN3C1=CC=C3)C=CC=C2 | C17H20N2O
reactant | 1-(2-chloroethyl)-1,3-dihydro-2H-benzimidazol-2-one | 0.02 mole, 3.9 g | ClCCN1C(NC2=C1C=CC=C2)=O | C9H9ClN2O
reactant | K2CO3 | 0.15 mole, 20 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | 11-{1-[2-(1,3-Dihydro-2-oxo-2H-benzimidazol-1-yl)ethyl]piperidin-4-yl}-5H,11H-pyrrolo[2,1-c][1,4]benzoxazepine oxalate | C(C(=O)O)(=O)O.O=C1NC2=C(N1CCN1CCC(CC1)C1OC3=C(CN4C1=CC=C4)C=CC=C3)C=CC=C2 | InChI=1S/C26H28N4O2.C2H2O4/c31-26-27-21-7-2-3-8-22(21)30(26)17-16-28-14-11-19(12-15-28)25-23-9-5-13-29(23)18-20-6-1-4-10-24(20)32-25;3-1(4)2(5)6/h1-10,13,19,25H,11-12,14-18H2,(H,27,31);(H,3,4)(H,5,6)
